US08334295B2
Carbamic acid 2-[6-(3-cyano-5-methyl-benzoyl)-5-isopropyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-ethyl ester (Compound 86):
Ceric ammonium nitrate (156 mg, 0.189 mmol, 3 eq.) was added to carbamic acid 2-[6-(3-cyano-5-methyl-benzoyl)-5-isopropyl-3-(4-methoxy-benzyl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-ethyl ester (32 mg, 0.063 mmol, 1.0 eq.) in a mixture of MeCN (1 mL), acetic acid (0.4 mL) and water (0.2 mL). The reaction mixture was stirred at room temperature for 10 minutes. The reaction mixture concentrated down. Ethyl acetate was added and the mixture was washed with brine. The organic layer was concentrated down and purified (silica gel, 20-80% EtOAc /hexane) to give a white solid (13.6 mg, 56%). 1H NMR (300 MHz, d6 DMSO): δ 11.52 (s, 1H), 8.43 (s, 1H), 8.22 (s, 1H), 8.09 (s, 1H), 3.92 (m, 1H), 3.81 (m, 2H), 3.22 (m, 1H), 2.44 (s, 3H), 2.08 (m, 1H), 1.04 (dd, 6H).

reactant | carbamic acid 2-[6-(3-cyano-5-methyl-benzoyl)-5-isopropyl-3-(4-methoxy-benzyl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-ethyl ester | 0.063 mmol, 32 mg, 1.0 eq. | C(#N)C=1C=C(C(=O)C2=C(C(N(C(N2CCOC(N)=O)=O)CC2=CC=C(C=C2)OC)=O)C(C)C)C=C(C1)C | C27H28N4O6
reactant | acetic acid | 0.4 mL | C(C)(=O)O | C2H4O2
reactant | water | 0.2 mL | O | H2O
solvent | MeCN | 1 mL | CC#N | C2H3N
product | Carbamic acid 2-[6-(3-cyano-5-methyl-benzoyl)-5-isopropyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-ethyl ester | 13.6 mg, 56% | C(#N)C=1C=C(C(=O)C2=C(C(NC(N2CCOC(N)=O)=O)=O)C(C)C)C=C(C1)C | C19H20N4O5
